US07795236B2
2′,3′,5′-Tris-O-(tert-butyldimethylsilyl)-8-(3′-methoxy-carbonylmethoxybiphenyl-4-ylmethylamino)adenosine
To a solution of 2′,3′,5′-tris-O-(tert-butyl-dimethylsilyl)-8-(3′-hydroxybiphenyl-4-ylmethylamino)-adenosine (0.612 g) in N,N-dimethylformamide (4.0 mL) was added potassium carbonate (0.165 g). Then methyl bromoacetate (0.098 mL) was added, and the resulting mixture was stirred at room temperature for 5 hours. The reaction mixture was partitioned between diethyl ether (55 mL) and water (10 mL). The organic layer was washed successively with water (10 mL×2) and brine (10 mL), dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by column chromatography on silica gel (eluent: hexane/ethyl acetate=3/2) to give the title compound (0.423 g).

reactant | 2′,3′,5′-tris-O-(tert-butyl-dimethylsilyl)-8-(3′-hydroxybiphenyl-4-ylmethylamino)-adenosine | 0.612 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C(N)=NC=NC12)NCC1=CC=C(C=C1)C1=CC(=CC=C1)O | C41H66N6O5Si3
reactant | potassium carbonate | 0.165 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.098 mL | BrCC(=O)OC | C3H5BrO2
reactant | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | 2′,3′,5′-Tris-O-(tert-butyldimethylsilyl)-8-(3′-methoxy-carbonylmethoxybiphenyl-4-ylmethylamino)adenosine | 0.423 g | [Si](C)(C)(C(C)(C)C)O[C@H]1[C@@H](O[C@@H]([C@H]1O[Si](C)(C)C(C)(C)C)CO[Si](C)(C)C(C)(C)C)N1C(=NC=2C(N)=NC=NC12)N(CC1=CC=C(C=C1)C1=CC(=CC=C1)OC)OC=C=O | C44H68N6O7Si3
